US05298652
The conversion of 3-(tetradecyloxy)benzoic acid to the acid chloride followed by treatment with dimethyl iminodiacetate as in Example 1 gave N-(2-methoxy-2-oxoethyl)-N-[3-(tetradecyloxy)benzoyl]glycine methyl ester, mp <23°. The nmr and mass spectra were consistent with the structure.

reactant | 3-(tetradecyloxy)benzoic acid | C(CCCCCCCCCCCCC)OC=1C=C(C(=O)O)C=CC1 | C21H34O3
reactant | dimethyl iminodiacetate | N(CC(=O)OC)CC(=O)OC | C6H11NO4
product | N-(2-methoxy-2-oxoethyl)-N-[3-(tetradecyloxy)benzoyl]glycine methyl ester | COC(CN(C(C1=CC(=CC=C1)OCCCCCCCCCCCCCC)=O)CC(=O)OC)=O | C27H43NO6
